US07192968B2
4-[(tert-Butoxycarbonyl)amino]pyridine
4-Aminopyridine (10 g) was dissolved in tetrahydrofuran (500 ml), di-tert-butyl dicarbonate (25.5 g) was added to the solution, and the mixture was stirred at room temperature for 10 minutes. The resultant reaction mixture was concentrated under reduced pressure, and deposited solids were washed with hexane to obtain the title compound (16.9 g) as a colorless solid.

reactant | 4-Aminopyridine | 10 g | NC1=CC=NC=C1 | C5H6N2
reactant | di-tert-butyl dicarbonate | 25.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 4-[(tert-Butoxycarbonyl)amino]pyridine | 16.9 g | C(C)(C)(C)OC(=O)NC1=CC=NC=C1 | C10H14N2O2
